US05210227
a) 12-Allyl-5,17-dihydroxy-19-[4-hydroxy-3-methoxycyclo hexyl]-13-oxo-2,8,10,16,18-pentamethyl-4,6-dimethoxynona deca-10.18-dienoic acid
A mixture of 17-allyl-1,2-dihydroxy-12-[2-(4-hydroxy-3-methoxycyclohexyl)-1-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo [22.3.1.04,9 ]octacos-18-ene-3,10,16-trione (the compound of Example 15, European Patent Application No 323042) (2.5 g) and potassium carbonate (1.14 g) in methanol (25 ml) was stirred at ambient temperature for 1.5 hours, and then filtered. To the filtrate were added water and diethyl ether, and the separated aqueous layer was acidified with 1N hydrochloric acid. The precipitate was extracted with diethyl ether and the extract was washed with brine, dried and then concentrated in vacuo to give the crude subtitle compound.

reactant | 17-allyl-1,2-dihydroxy-12-[2-(4-hydroxy-3-methoxycyclohexyl)-1-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo [22.3.1.04,9 ]octacos-18-ene-3,10,16-trione | C(C=C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)=O | C44H71NO11
reactant | potassium carbonate | 1.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 25 ml | CO | CH4O
product | 12-Allyl-5,17-dihydroxy-19-[4-hydroxy-3-methoxycyclo hexyl]-13-oxo-2,8,10,16,18-pentamethyl-4,6-dimethoxynona deca-10.18-dienoic acid | C(C=C)C(C=C(CC(CC(C(C(CC(C(=O)O)C)OC)O)OC)C)C)C(CCC(C(C(=CC1CC(C(CC1)O)OC)C)O)C)=O | C36H62O9
